### PR TITLE
Use projections in `schedulable`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Please also see the commit message

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
ARM tests will fail, but I can apply the same changes as in RISCV to get it working. I'll update when I make other changes, if that's alright.

File: spec/abstract/KHeap_A.thy [hunk 1]
```diff
@@ -304,50 +347,11 @@ definition
...
-     | Some tcb \<Rightarrow>
-       (case tcb_sched_context tcb of None => False
-        | Some sc_ptr =>
-            (runnable (tcb_state tcb) \<and> (is_sc_active sc_ptr s)
-              \<and> \<not>(in_release_queue tcb_ptr s)))"
+definition schedulable :: "obj_ref \<Rightarrow> 'z::state_ext state \<Rightarrow> bool" where
+  "schedulable t s \<equiv>
+   (runnable |< (tcbs_of s ||> tcb_state)) t
+   \<and> (sc_active |< (tcbs_of s |> tcb_sched_context |> scs_of s)) t
+   \<and> t \<notin> set (release_queue s)"
```
Comment (lsf37) [inline spec/abstract/KHeap_A.thy:354]: This is so much nicer than the triplicate terrible manual case distinctions from before. Thanks for taking on that cleanup task.

File: spec/abstract/KHeap_A.thy [hunk 2]
```diff
@@ -11,12 +11,55 @@ Functions to access kernel memory.
...
+
+lemma tcb_of_None:
+  "tcb_of ko = None \<longleftrightarrow> (\<forall>tcb. ko \<noteq> TCB tcb)"
+  by (cases ko; simp)
+
+definition tcbs_of_kh :: "('obj_ref \<rightharpoonup> kernel_object) \<Rightarrow> 'obj_ref \<rightharpoonup> tcb" where
+  "tcbs_of_kh kh \<equiv> kh |> tcb_of"
+
+abbreviation tcbs_of :: "'z state \<Rightarrow> obj_ref \<rightharpoonup> tcb" where
+  "tcbs_of s \<equiv> tcbs_of_kh (kheap s)"
```
Comment (lsf37) [inline spec/abstract/KHeap_A.thy:41]: We don't usually do that additional wrapping in a definition for `kh`. It'll interfere somewhat with the projection stack, because the simplifier can't see the `|>` in the final term and can't apply the generic projection rules. Is there any specific reason for it or is it just what was there before? It looks a bit like the locales version of projections.

We could make it an abbreviation if we just want to have the name.

File: spec/abstract/KHeap_A.thy [hunk 3]
```diff
@@ -11,12 +11,55 @@ Functions to access kernel memory.
...
+lemma sc_of_Some[simp]:
+  "sc_of ko = Some sc \<longleftrightarrow> (\<exists>n. ko = SchedContext sc n)"
+ by (cases ko; simp)
+
+lemma sc_of_None:
+  "sc_of ko = None \<longleftrightarrow> (\<forall>sc n. ko \<noteq> SchedContext sc n)"
+ by (cases ko; simp)
+
+definition scs_of_kh :: "('obj_ref \<rightharpoonup> kernel_object) \<Rightarrow> 'obj_ref \<rightharpoonup> sched_context" where
+  "scs_of_kh kh \<equiv> kh |> sc_of"
```
Comment (lsf37) [inline spec/abstract/KHeap_A.thy:57]: (same as above, in case we do want to change it)

File: spec/abstract/KHeap_A.thy (hunk 2 above)
Comment (michaelmcinerney) [reply spec/abstract/KHeap_A.thy:41]: This stuff was just copied, and I’m quite sure it was written by Matt, so maybe there are some difference in intention and approach here. I don’t think having the name would be helpful. Could you maybe write out exactly what you’d like? Or I can take a stab at it. 

I also wasn’t sure whether to commit to having all the projections in this file. I can move the others here if we’d like to do that

File: proof/invariant-abstract/AInvs.thy [hunk 4]
```diff
@@ -29,13 +29,12 @@ lemma pred_tcb_at_upd_apply:
...
+  apply (clarsimp simp: schedulable_def)
   apply (simp add: thread_set_def)
   apply (rule bind_wp[OF _ assert_get_tcb_ko'])
   apply (wpsimp wp: set_object_wp)
-  apply (fastforce simp: schedulable_def is_sc_active_def get_tcb_def ko_atD
-                         in_release_queue_def
-                  split: option.splits )
-  done
+  by (fastforce simp: obj_at_def opt_pred_def opt_map_def tcbs_of_kh_def scs_of_kh_def
+               split: option.splits)
```
Comment (lsf37) [inline proof/invariant-abstract/AInvs.thy:37]: Those `cbs_of_kh_def scs_of_kh_def` are ones I meant with interfering with the simplifier.

File: proof/refine/RISCV64/Refine.thy [hunk 5]
```diff
@@ -1268,37 +1235,27 @@ lemma ckernel_invariant:
      apply (rule hoare_weaken_pre)
       apply (rule kernelEntry_invs')
      apply clarsimp
+     apply (frule_tac a=sa and b=s in curthread_relation)
```
Comment (lsf37) [inline proof/refine/RISCV64/Refine.thy:1238]: Does this one have rename_tac for `sa` and `s`  before? (I didn't spot any, but it's hard to see in the GitHub interface). I've just had a bunch of these fail for Isabelle2025..

File: proof/refine/RISCV64/TcbAcc_R.thy [hunk 6]
```diff
@@ -3035,57 +3039,126 @@ lemma ko_at'_valid_tcbs'_valid_tcb':
...
+  "(\<And>s s'. \<lbrakk>(s, s') \<in> sr; P s; P' s'\<rbrakk> \<Longrightarrow> f s = v)
+   \<Longrightarrow> corres_underlying sr nf nf' (=) P P' (gets f) (return v)"
+  unfolding corres_underlying_def gets_def get_def return_def bind_def
+  by clarsimp
+
+definition schedulable' :: "machine_word \<Rightarrow> kernel_state \<Rightarrow> bool" where
+  "schedulable' tcbPtr s' \<equiv>
+   (runnable' |< (tcbs_of' s' ||> tcbState)) tcbPtr
+   \<and> ((\<lambda>sc. 0 < scRefillMax sc) |< (tcbs_of' s' |> tcbSchedContext |> scs_of' s')) tcbPtr
+   \<and> (Not \<circ> tcbInReleaseQueue |< tcbs_of' s') tcbPtr"
```
Comment (lsf37) [inline proof/refine/RISCV64/TcbAcc_R.thy:3055]: I think I have seen these terms occur somewhere in the proofs (CRefine?) -- I would still vote for giving them a name, at least the ones that are referenced again. It's not only that it makes it easier to understand, you can also click on the name and directly get to the entity that the proof makes a connection to.

**Review by lsf37 — APPROVED** [review]
This is cool, I'm all up for it. It makes things nicer.

Now that I've seen the entire PR, I can see that the `kh` definition is from the locale setup where it was moved from. I'm still tempted to make it an abbreviation, but it's possible that this has a bunch of fallout that would only pollute this PR. Maybe try it out and if things fail all over the place, wipe it again and keep what you have now.

You don't have to, but I suspect your future self might be grateful if you do the `FIXME RT: move to Lib` now instead of later :-)

File: spec/abstract/KHeap_A.thy (hunk 2 above)
Comment (lsf37) [reply spec/abstract/KHeap_A.thy:41]: Hm. That might turn into a greater rabbit hole than we like. If it's Matt's locales then we should move the locale setup as well, and then there is the question if we really want to keep that if we're doing the other projection style elsewhere. In terms of types and spec and expressivity they are the same, so for ASpec it's not really a problem, but I think I would only do the ones we need for now.

Comment (michaelmcinerney) [reply spec/abstract/KHeap_A.thy:41]: Yes, thinking about it some more, it probably is a rabbit hole we want to avoid for now. I think if we were to get rid of anything here, then it's very likely to break some of the very sensitive simplification rules that are part of the locales, and it would be a monstrous task to fix that up. 

Should we just leave it here, maybe adding a comment before the definitions of `tcbs_of_kh` and `scs_of_kh` saying "Consider eliminating in favour of a direct definition below in terms of `kheap`"?

File: proof/refine/RISCV64/Refine.thy (hunk 5 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Refine.thy:1238]: Oops, added now.

File: spec/abstract/KHeap_A.thy (hunk 2 above)
Comment (lsf37) [reply spec/abstract/KHeap_A.thy:41]: Yes, that sounds good. Maybe also a hint that there is locale setup for this later, so that we don't forget that this exists.

File: proof/refine/RISCV64/TcbAcc_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/RISCV64/TcbAcc_R.thy:3055]: I guess that one is short enough to just leave. It's short enough , and a name for this one would require some acrobatics around `tcbInReleaseQueue`, because that is close to the name I would probably expect for it.

**Comment by michaelmcinerney** [comment]
I've got all the `FIXME RT: move` bits now in a PR for `master`, and I'd like to merge that PR and then cherry-pick it onto the `rt` branch before I update this PR, if that suits.

**Comment by michaelmcinerney** [comment]
I've addressed the comments I've received so far, and updated the PR, but I've cancelled the tests, seeing that I'll want to cherry-pick some commits from `master` before merging this PR.
